* Z:\mnt\design.r\spice\examples\27C.asc
XU1 IN N001 +V -V OUT RH27C
V1 +V 0 15
V2 -V 0 -15
C1 OUT N001 .05µ
R1 OUT N001 100K
R2 N001 0 10
V3 IN 0 PULSE(0 100u 0 100n 100n 40m 80m)
.tran 200m
* Low noise, bandwidth limited,  AV=10,000 amplifier
.lib LTC.lib
.backanno
.end
